US07652051B2
Synthesis of 6-{3-[5-(4-chloro-3-trifluoromethyl-phenylamino)-4H-[1,2,4]triazol-3-yl]-phenoxy}-pyrimidine-2,4-diamine trifluoroacetic acid salt
3-[5-(4-chloro-3-trifluoromethyl-phenylamino)-4H[1,2,4]triazol-3-yl]-phenol (100 mg, 0.282 mmol) was dissolved in 2 mL of anhydrous DMF in a 5 mL microwave vial. Solid potassium bis(trimethylsilyl)amide (140.6 mg, 0.705 mmol) was added and the reaction mixture was stirred with heating at 80° C. for 15 min, then 4-chloro-2,6-diamino-pyrimidine (44.8 mg, 0.31 mmol) was added, followed by anhydrous K2CO3 (19.5 mg, 0.141 mmol). Then the vial was capped and microwaved at 250° C. for 20 min. Then the reaction mixture was diluted with ca. 1 mL of MeOH, filtered through 0.22 um syringe filter and purified by reverse-phase preparative HPLC in acetonitrile/water system with 0.01% TFA. The product was isolated as a TFA salt (37.8 mg of beige solid).

reactant | 3-[5-(4-chloro-3-trifluoromethyl-phenylamino)-4H[1,2,4]triazol-3-yl]-phenol | 0.282 mmol, 100 mg | ClC1=C(C=C(C=C1)NC=1NC(=NN1)C=1C=C(C=CC1)O)C(F)(F)F | C15H10ClF3N4O
reactant | potassium bis(trimethylsilyl)amide | 0.705 mmol, 140.6 mg | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | 4-chloro-2,6-diamino-pyrimidine | 0.31 mmol, 44.8 mg | ClC1=NC(=NC(=C1)N)N | C4H5ClN4
reactant | K2CO3 | 0.141 mmol, 19.5 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | MeOH | ca. 1 mL | CO | CH4O
product | 6-{3-[5-(4-chloro-3-trifluoromethyl-phenylamino)-4H-[1,2,4]triazol-3-yl]-phenoxy}-pyrimidine-2,4-diamine trifluoroacetic acid salt | 37.8 mg | FC(C(=O)O)(F)F.ClC1=C(C=C(C=C1)NC=1NC(=NN1)C=1C=C(OC2=CC(=NC(=N2)N)N)C=CC1)C(F)(F)F | InChI=1S/C19H14ClF3N8O.C2HF3O2/c20-13-5-4-10(7-12(13)19(21,22)23)26-18-29-16(30-31-18)9-2-1-3-11(6-9)32-15-8-14(24)27-17(25)28-15;3-2(4,5)1(6)7/h1-8H,(H4,24,25,27,28)(H2,26,29,30,31);(H,6,7)
